US04143047
2-(N-n-Butyl-2-methylpropanamido)-4-methyloxazole
n-Butyl-isobutyramide (0.99 g, 0.0069 m) in dry THF (10 ml) was cooled to -20° C. under nitrogen during the dropwise addition of a 1.445 M solution of n-butyl lithium (4.8 ml, 0.0069 m). The mixture was stirred for 20 minutes at -20° C. and then 4-methyl-2-methylsulphinyloxazole (1.0 g, 0.0068 m) in dry THF (10 ml) was added rapidly and the mixture allowed to warm to 0° C. It was stirred at this temperature for 11/2 hours then allowed to warm to room temperature and stirred for a further 1/2 hour. The mixture was hydrolysed with water and the solvent was evaporated under reduced pressure. The residue was extracted with diethyl ether and the extract was evaporated. The resulting oil was chromatographed on silica using ether/hexane. The compound was distilled in vacuo to give the title compound as a colourless oil 1.21 g, (78%), b.p. (airbath) 70° C. at 0.01 mm.

reactant | n-Butyl-isobutyramide | 0.99 g | C(CCC)C(C(=O)N)(C)C | C8H17NO
reactant | n-butyl lithium | 4.8 ml | C(CCC)[Li]
reactant | 4-methyl-2-methylsulphinyloxazole | 1.0 g | CC=1N=C(OC1)S(=O)C | C5H7NO2S
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(N-n-Butyl-2-methylpropanamido)-4-methyloxazole | 1.21 g, 78% | C(CCC)N(C(C(C)C)=O)C=1OC=C(N1)C | C12H20N2O2
